* NGSPICE file created from inverter_pex.ext - technology: ihp-sg13g2

.subckt inverter_pex VDD vin vout VSS
X0 VSS vin vout VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X1 VSS VSS VSS VSS sg13_lv_nmos ad=0.19p pd=1.38u as=91.0671p ps=0.17886m w=1u l=1u
X2 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X3 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X4 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X5 vout vin VSS VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X6 vout vin VSS VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X7 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X8 VSS VSS VSS VSS sg13_lv_nmos ad=0.34p pd=2.68u as=0 ps=0 w=1u l=1u
X9 VSS vin vout VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X10 vout vin VSS VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X11 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X12 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X13 VSS vin vout VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X14 VSS vin vout VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X15 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X16 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X17 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X18 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X19 VSS vin vout VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X20 vout vin VSS VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X21 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X22 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X23 VDD VDD VDD VDD sg13_lv_pmos ad=2.04p pd=12.68u as=0.14199n ps=0.28418m w=6u l=1u
X24 vout vin VSS VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X25 VSS vin vout VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X26 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X27 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X28 VSS vin vout VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X29 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X30 VSS vin vout VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X31 VSS vin vout VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X32 vout vin VSS VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X33 vout vin VSS VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X34 vout vin VSS VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X35 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X36 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X37 VSS vin vout VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X38 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X39 VDD VDD VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=0 ps=0 w=6u l=1u
X40 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X41 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X42 vout vin VSS VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X43 vout vin VSS VSS sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
C0 vin VDD 28.614f
C1 VDD vout 15.0304f
C2 vin vout 18.1624f
C3 vout VSS 4.52502f
C4 vin VSS 14.9682f
C5 VDD VSS 3.5945f
.ends
